US06514968B1
2-[(9-Benzyl-6-methyl-9H-carbazol-4-yl)oxy]ethylamine
Borane-methyl sulfide (1.2 mL, 0.013 mol) is added to a mixture of 2-[(9-benzyl-6-methyl-9H-carbazol-4-yl)oxy]acetonitrile (1.3337 g, 0.0041 mol) in dry THF (35 mL) and the mixture is allowed to stir at room temperature for 5.5 h. The excess borane then is cautiously quenched with methanol and the mixture is concentrated under reduced pressure. Methanol and dichloromethane are added to the residue and the solution is again concentrated under reduced pressure (repeated twice). The solids are then dissolved in methanol/dichloromethane with heating and 4N HCl (10 mL) is added. The mixture is stirred for 15 min while being warmed slightly. The solvent is then removed under reduced pressure and the residue is partitioned between dichloromethane and aq. sodium bicarbonate. The combined organic layers are dried over sodium sulfate and concentrated to dryness. The residue is chromatographed on silica gel (300 mL) using methanol/dichloromethane (2/98 and 6/94) to give 0.89 g (66%) of the title compound. The salt of 2-[(9-benzyl-6-methyl-9H-carbazol-4-yl)oxy]ethylamine (0.2310 g, 0.70 mmol) is formed with maleic acid in dichloromethane and recrystallized from methanol/dichloromethane/hexane to give 0.2051 g (66%) of the maleic acid salt; mp 187.5-188° C.; MS (ESI+) for C22H22N2O m/z 331.3 (M+H)+; IR (drift) 3027, 2984, 2926, 2887, 1601, 1579, 1497, 1483, 1465, 1364, 1344, 1267, 1150, 865, 747 cm−1; 1H NMR (CD3OD) δ2.52, 3.59, 4.52, 5.54, 6.23, 6.77, 7.09, 7.22, 7.33, 8.16, NH2 not seen. Anal. Calcd for C22H22N2O.C4H4O4: C, 69.94; H, 5.87; N, 6.27. Found: C, 69.93; H, 5.90; N, 6.29.

reactant | Borane methyl sulfide | 0.013 mol, 1.2 mL | B.CSC
reactant | 2-[(9-benzyl-6-methyl-9H-carbazol-4-yl)oxy]acetonitrile | 0.0041 mol, 1.3337 g | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(=CC=CC12)OCC#N)C | C22H18N2O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 2-[(9-Benzyl-6-methyl-9H-carbazol-4-yl)oxy]ethylamine | 0.89 g, 66% | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(=CC=CC12)OCCN)C | C22H22N2O
